US07691875B2
8-[(2,6-dimethylbenzyl)amino]-N-[(2S)-2-hydroxypropyl]-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide
8-[(2,6-dimethylbenzyl)amino]-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylic acid (30 g, 0.0928 mol) and 30 g diisopropylethylamine (30 g, 0.233 mol) were added to dimethylformamide (DM) (250 ml). o-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) (36 g, 0.112 mol) was added. The mixture was stirred for 15 min at room temperature. (S)-1-amino-2-propanol (8.4 g, 0.112 mol) was added and the stirring was continued for 1 h at room temperature. Water (100 ml) was added and the reaction mixture was heated to 70° C. The product was precipitated by slowly adding more water (200 ml). The mixture was then stirred for 5 h at 65-70° C. After cooling to room temperature the product was filtered off and washed with 40% methanol solution. 33.7 g of the compound of the invention was obtained.

reactant | 8-[(2,6-dimethylbenzyl)amino]-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylic acid | 0.0928 mol, 30 g | CC1=C(CNC=2C=3N(C=C(C2)C(=O)O)C(=C(N3)C)C)C(=CC=C1)C | C19H21N3O2
reactant | diisopropylethylamine | 0.233 mol, 30 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | o-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.112 mol, 36 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1
reactant | (S)-1-amino-2-propanol | 0.112 mol, 8.4 g | NC[C@H](C)O | C3H9NO
solvent | Water | 100 ml | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 8-[(2,6-dimethylbenzyl)amino]-N-[(2S)-2-hydroxypropyl]-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide | 33.7 g | CC1=C(CNC=2C=3N(C=C(C2)C(=O)NC[C@H](C)O)C(=C(N3)C)C)C(=CC=C1)C | C22H28N4O2
